US07563905B2
The Synthesis of 4-benzyl-3-[(4-methoxybenzyl)thio]-5-phenyl-4H-1,2,4-triazole
This compound was synthesized using the same methodology as described in Example 1 above, using benzoic acid hydrazide, benzyl isothiocyanate and 4-methoxybenzyl bromide as the starting materials. (M+H)+−388.

reactant | benzoic acid hydrazide | C(C1=CC=CC=C1)(=O)NN | C7H8N2O
reactant | benzyl isothiocyanate | C(C1=CC=CC=C1)N=C=S | C8H7NS
reactant | 4-methoxybenzyl bromide | COC1=CC=C(CBr)C=C1 | C8H9BrO
product | 4-benzyl-3-[(4-methoxybenzyl)thio]-5-phenyl-4H-1,2,4-triazole | C(C1=CC=CC=C1)N1C(=NN=C1C1=CC=CC=C1)SCC1=CC=C(C=C1)OC | C23H21N3OS
